US04247700
2-(4-Carboxy-1-piperidylmethyl)propenenitrile
Cyanoacetic acid (12.8 g. 0.15 mole) was dissolved in 25 ml. of dioxane. Next, isonipecotic acid (19.4 g., 0.15 mole) was added. Then, 37% aqueous formaldehyde (25 g., 0.3 mole) was dripped in and the temperature maintained at a maximum of 35° C. After mixing overnight sodium chloride was added to saturation and methylene chloride used to extract the mixture. The organic phase was washed with water, dried over anhydrous sodium sulfate and after filtration, concentrated. Most of the product appeared in the aqueous phase. This was extracted twice with 500 ml. of methylene chloride in a continuous extractor. The residue obtained after solvent removal weighed 14.2 g., m.p. 109°-111° C. of analytical purity.

reactant | Cyanoacetic acid | 0.15 mole, 12.8 g | C(#N)CC(=O)O | C3H3NO2
reactant | isonipecotic acid | 0.15 mole, 19.4 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | formaldehyde | 0.3 mole, 25 g | C=O | CH2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-Carboxy-1-piperidylmethyl)propenenitrile | C(=O)(O)C1CCN(CC1)CC(C#N)=C | C10H14N2O2
